US09035062B2
(2S,5R)-tert-Butyl 5-(benzyloxyamino)-1-(2,2,2-trifluoroacetyl)piperidine-2-carboxylate (D)
After a solution of 10.22 g (34.38 mmol) of (2S,5S)-tert-butyl 5-hydroxy-1-(2,2,2-trifluoroacetyl)piperidine-2-carboxylate in dehydrated acetonitrile (113 mL) was cooled from −30 to −40° C. under argon atmosphere, 4.4 mL (37.78 mmol) of 2,6-lutidine was added, and then 5.92 mL (36.09 mmol) of trifluoromethanesulfonic acid anhydride was added dropwise over 10 minutes, followed by further allowing to react at −30° C. for 15 minutes. To this reaction mixture was added 8.46 g (68.73 mmol) of benzyloxyamine (washed with acetonitrile (5 mL)), followed by raising the temperature to 0° C. within 30 minutes, and further 4.4 mL (37.78 mmol) of 2,6-lutidine was added, followed by allowing to react at 0 to 5° C. for 3.5 days. This reaction mixture was concentrated under reduced pressure, and the resulting residue was diluted with ethyl acetate (200 mL) and washed sequentially with water (200 mL), 10% aqueous citric acid solution (200 mL×3 times), 6.5% aqueous sodium hydrogencarbonate solution (100 mL) and saturated brine (100 mL). Each aqueous layer was back-extracted with ethyl acetate (100 mL), the organic layers were combined and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resulting residue was applied to silica gel column chromatography (hexane/ethyl acetate=4/1) to afford 11.69 g of the title compound as a colorless oil (yield 85%). Enantiomeric excess: 99.0% ee (CHIRALPAK AD-H, 4.6×150 mm, UV 210 nm, hexane/ethanol=9/1, flow rate 1 mL/min., retention time 4.5 min.).

reactant | (2S,5S)-tert-butyl 5-hydroxy-1-(2,2,2-trifluoroacetyl)piperidine-2-carboxylate | 34.38 mmol, 10.22 g | O[C@H]1CC[C@H](N(C1)C(C(F)(F)F)=O)C(=O)OC(C)(C)C | C12H18F3NO4
reactant | 2,6-lutidine | 37.78 mmol, 4.4 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic acid anhydride | 36.09 mmol, 5.92 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | benzyloxyamine | 68.73 mmol, 5 mL, 8.46 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | 2,6-lutidine | 37.78 mmol, 4.4 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 113 mL | C(C)#N | C2H3N
product | (2S,5R)-tert-Butyl 5-(benzyloxyamino)-1-(2,2,2-trifluoroacetyl)piperidine-2-carboxylate | 11.69 g, yield 85% | C(C1=CC=CC=C1)ON[C@@H]1CC[C@H](N(C1)C(C(F)(F)F)=O)C(=O)OC(C)(C)C | C19H25F3N2O4
